US05945428
1'-[5-[[3,5-Dichlorophenyl]methoxy]-3-(3,4-dichlorophenyl)-4-oxopentyl]-1,2-dihydro-spiro[3H-indole-3,4'-piperidine]
Add a solution of HBr (gas) in acetic acid (3.0 ml) to phenylmethyl 1'-[3-(3,4-dichlorophenyl)-5-[(3,5-dichlorophenyl)methoxy]-4-oxopentyl]-1,2-dihydro-spiro[3H-indole-3,4'-piperidine]-1-carboxylate [0.250 g, 0.34 mmoles) dissolved in glacial acetic acid (2.0 ml). Stir the solution at room temperature for 4 h, then add Et2O (30 ml). Decant the liquid and wash the resultant solid with Et2O. Suspend the solid in water (10 ml) and add 1.0M aqueous KOH (5.0 ml). Extract the mixture with Et2O (3×30 ml), combine the extracts, wash with water and dry (Na2SO4). Remove the solvent and purify the reaction mixture by preparative thin layer chromatography (SiO2), eluting the plates twice with ETOAc:hexanes:CH3OH(NH3) (15:85:3). Extract the desired product with 5% CH3OH(NH3)/EtOAc. Yield: 57 mg.

reactant | HBr | Br | BrH
reactant | phenylmethyl 1'-[3-(3,4-dichlorophenyl)-5-[(3,5-dichlorophenyl)methoxy]-4-oxopentyl]-1,2-dihydro-spiro[3H-indole-3,4'-piperidine]-1-carboxylate | ClC=1C=C(C=CC1Cl)C(CCN1CCC2(CC1)CN(C1=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(COCC1=CC(=CC(=C1)Cl)Cl)=O | C38H36Cl4N2O4
reactant | Et2O | 30 ml | CCOCC | C4H10O
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | 1'-[5-[[3,5-Dichlorophenyl]methoxy]-3-(3,4-dichlorophenyl)-4-oxopentyl]-1,2-dihydro-spiro[3H-indole-3,4'-piperidine] | ClC=1C=C(C=C(C1)Cl)COCC(C(CCN1CCC2(CC1)CNC1=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl)=O | C30H30Cl4N2O2
